US05166392
2,6-Dichloro-3,5-difluoro-4-nitrophenol
20 g of 2,6-dichloro-3,5-difluorophenol are initially introduced in 70 ml of acetic acid, and 8 g of 98% strength nitric acid are added dropwise. Stirring is subsequently continued at room temperature for 2 hours, and the mixture is taken up in 150 ml of dichloromethane and washed twice with water. After the dichloromethane has been distilled off, 18 g of product remain. Purity 94% according to GC analysis.

reactant | 2,6-dichloro-3,5-difluorophenol | 20 g | ClC1=C(C(=C(C=C1F)F)Cl)O | C6H2Cl2F2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2,6-Dichloro-3,5-difluoro-4-nitrophenol | ClC1=C(C(=C(C(=C1F)[N+](=O)[O-])F)Cl)O | C6HCl2F2NO3
